US08258141B2
Q2: N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide
To a suspension of acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester (0.2 g, 0.35 mmol) in MeOH (10 ml) is added potassium carbonate (0.098 g, 0.7 mmol) and the reaction mixture is stirred at room temperature for 1 hour. The solvent is removed in vacuo and the solvent is partitioned between DCM and water. The organic portion is separated, dried (MgSO4) and concentrated in vacuo to afford the title product.

reactant | acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | 0.35 mmol, 0.2 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29ClN6O5
reactant | potassium carbonate | 0.7 mmol, 0.098 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 10 ml | CO | CH4O
product | N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27ClN6O4
